US07635700B2
A solution of 2-amino-N-(2,6-dioxo-piperidin-3-yl)-6-methyl-benzamide (0.65 g, 2.5 mmol) and trimethyl orthopentionate (0.66 mL, 3.8 mmol) and p-toluenesulfonic acid (140 mg) in DMF (7 mL) was heated at 150° C. in a microwave oven for 20 minutes. The mixture was extracted with ethyl acetate (50 mL) and water (50 mL). The aqueous layer was extracted with ethyl acetate (50 mL). The combined organic layers was washed with water (50 mL), HCl (1N, 50 mL) and brine (50 mL). The solvent was removed in vacuo to give an oil, which was purified with column chromatography (Silica Gel, methanol/methylene chloride 0% gradient to 5% 15 min), and followed by reversed layer column chromatography (C-18, acetonitrile/water 0% gradient to 100% 15 min) to give 3-(2-butyl-5-methyl-4-oxo-4H-quinazolin-3-yl)-piperidine-2,6-dione as a white solid (80 mg, 10% yield): HPLC: Waters Symmetry C18, 5 μm, 3.9×150 mm, 1 mL/min, 240 nm, 10/90 grad 90/10 in 5 min CH3CN/0.1% H3PO4, 6.59 min (95.4%); mp: 190-192° C.; 1H NMR (DMSO-d6) δ 0.95 (t, J=8 Hz, 3H, CH3), 1.40-1.49 (m, 2H, CH2), 1.67-1.75 (m, 2H, CH2), 2.05-2.09 (m, 1H, CHH), 2.51-2.67 (m, 3H, CH2, CHH), 2.69 (s, 3H, CH3), 2.81-2.90 (m, 3H, CH2, CHH), 5.20 (dd, J=5, 11 Hz, 1H, NC H, 7.25 (d, J=7 Hz, 1H, Ar), 7.44 (d, J=8 Hz, 1H, Ar), 7.64 (t, J=8 Hz, 1H, Ar), 10.98 (s, 1H, NH); 13C NMR (DMSO-d6) δ 13.80, 21.11, 21.72, 22.48, 28.60, 30.50, 34.42, 55.41, 118.63, 124.98, 128.83, 133.70, 139.81, 148.25, 156.95, 161.17, 169.75, 172.65; LCMS: MH=328; Anal Calcd for C18H21N3O3: C, 66.04; H, 6.47; N, 12.84. Found: C, 65.87; H, 6.61; N, 12.89.

reactant | 2-amino-N-(2,6-dioxo-piperidin-3-yl)-6-methyl-benzamide | 2.5 mmol, 0.65 g | NC1=C(C(=O)NC2C(NC(CC2)=O)=O)C(=CC=C1)C | C13H15N3O3
reactant | p-toluenesulfonic acid | 140 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | DMF | 7 mL | CN(C)C=O | C3H7NO
product | 3-(2-butyl-5-methyl-4-oxo-4H-quinazolin-3-yl)-piperidine-2,6-dione | 80 mg, 10% yield | C(CCC)C1=NC2=CC=CC(=C2C(N1C1C(NC(CC1)=O)=O)=O)C | C18H21N3O3
